US08633319B2
Preparation of 4-Bromo-1-(1,1-dimethylethyl)-1H-pyrazole (Intermediate 10)
To an ice cooled solution (0° C. to 10° C.) of 1-(tert-butyl)pyrazole (1.75 kg, 14.09 mol) in dichloromethane (12.9 kg) was added NBS (2.63 kg, 14.79 mol) portionwise. The solution was stirred at 0° C. until the content of 1-(tert-butyl)pyrazole<30% (GC), then warmed to RT and stirred until the sample taken shows <1.0% by GC. On receipt of a pass result, 10% sodium bisulfite aqueous was added to the reaction mixture until KI-starch did not turn to blue. The organic phase was then washed with 5% NaCl solution and brine in sequence, then evaporated to give the title compound as a brown liquid (2.67 kg, 93.4% yield; GC purity 99.1% a/a).

reactant | 1-(tert-butyl)pyrazole | 14.09 mol, 1.75 kg | C(C)(C)(C)N1N=CC=C1 | C7H12N2
reactant | NBS | 14.79 mol, 2.63 kg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | dichloromethane | 12.9 kg | ClCCl | CH2Cl2
product | 4-Bromo-1-(1,1-dimethylethyl)-1H-pyrazole | 93.4% yield | BrC=1C=NN(C1)C(C)(C)C | C7H11BrN2
